US06900215B2
A 3 l round-bottomed flask equipped with a mechanical stirrer, thermocouple and nitrogen inlet adaptor was charged with 2-aminoimidazole hemisulfate (84.6 g, 641 mmol) and absolute EtOH (900 ml). The resulting slurry was stirred at 24° C. and solid NaOMe (69.2 g, 1.28 mol) was added in two portions over 15 min. After the addition was complete the reaction temperature was 46° C. The mixture was warmed to 60° C. and stirred for 45 min. The mixture was then cooled to 50° C. A solution of crude 4-acetoxy-1,1-diethoxy-4-methyl-3-butanone (253.5 g of 57 wt % material, 611 mmol) and absolute EtOH (150 ml) was added over 1 h maintaining a reaction temperature of about 45° C. After the addition, the reaction was maintained at 60° C. for 3 h and then cooled to 20° C. The pH was adjusted to 5.9 by addition of aqueous HCl (5N, 130 ml) in 10 ml portions. Darco G-60 (9.0 g) was added and the slurry was stirred for 30 min. The solids were removed by filtration through a pad of Solka-floc and the cake was rinsed with EtOH (200 ml). The filtrate was concentrated to about 200 ml by rotary evaporation, then 300 ml of EtOAc was added and the mixture was concentrated to about 300 ml. This was repeated three times with crystals forming during the process. The final slurry was diluted to 600 ml with EtOAc and then cooled to 5° C. with stirring. The solids were collected on a frit, rinsed with cold EtOAc (50 ml) and dried overnight under vacuum at 22° C. to provide 2-(imidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (79 g) as a crystalline solid: 1H NMR (MeOH-d4, 400 MHz) δ 8.80 (1H, d, J 7.2), 7.77 (1H, d, J 1.6), 7.66 (1H, d, J 1.6), 7.39 (1H, d, J 7.2), 1.60 (6H, s); 13C NMR (MeOH-d4, 100.61 MHz) δ 169.7, 147.8, 134.7, 132.8, 111.1, 105.4, 72.8, 28.4.

reactant | 2-aminoimidazole hemisulfate | 641 mmol, 84.6 g | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
reactant | NaOMe | 1.28 mol, 69.2 g | C[O-].[Na+]
reactant | 4-acetoxy-1,1-diethoxy-4-methyl-3-butanone | 611 mmol, 253.5 g | C(C)(=O)OC(C(CC(OCC)OCC)=O)C | C11H20O5
reactant | HCl | 5N, 130 ml | Cl | ClH
reactant | Darco | C | CH4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | EtOH | 150 ml | CCO | C2H6O
solvent | EtOH | 900 ml | CCO | C2H6O
product | 2-(imidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 79 g | N=1C=CN2C1N=C(C=C2)C(C)(C)O | C9H11N3O
